US04659706
3-Acetyl-7-chlorosulfonyl-8-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (2 g) is stirred with 10 ml of 40% aqueous methylamine, then treated with hydrochloric acid and concentrated in vacuo to give 8-methoxy-7-(N-methylsulfamoyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride. This 8-methoxy-7-(N-methylsulfamoyl) compound is refluxed with 48% hydrobromic acid according to the procedure of Example 1 to give 8-hydroxy-7-(N-methylsulfamoyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 3-Acetyl-7-chlorosulfonyl-8-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 2 g | C(C)(=O)N1CCC2=C(CC1)C=C(C(=C2)S(=O)(=O)Cl)OC | C13H16ClNO4S
reactant | hydrochloric acid | Cl | ClH
reactant | methylamine | 10 ml | CN | CH5N
product | 8-methoxy-7-(N-methylsulfamoyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.COC=1C(=CC2=C(CCNCC2)C1)S(NC)(=O)=O | InChI=1S/C12H18N2O3S.ClH/c1-13-18(15,16)12-8-10-4-6-14-5-3-9(10)7-11(12)17-2;/h7-8,13-14H,3-6H2,1-2H3;1H
